US09315530B2
Step 5: (4-((6-amino-2-(2-methoxyethoxy)-8-oxo-7H-purin-9(8H)-yl)methyl)benzyl)phosphonic acid
To a solution of diethyl 4-((6-amino-8-methoxy-2-(2-methoxyethoxy)-9H-purin-9-yl)methyl)benzylphosphonate (1 equiv.) in CH2Cl2 (0.10 M) at 0° C. was slowly added trimethylsilyl bromide (10 equiv.). After 1 h the ice-bath was removed and the reaction mixture was allowed to stir at 22° C. for 2 h. At this point the volatiles were removed in vacuo and the resulting residue was purified by Reverse Phase-HPLC using a 20-90% 0.5 mM NH4OAc (in MeCN) to 10 mM NH4OAc (in water) gradient to deliver the title compound (29%) as a solid.

reactant | diethyl 4-((6-amino-8-methoxy-2-(2-methoxyethoxy)-9H-purin-9-yl)methyl)benzylphosphonate | 1 equiv. | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=C(CP(OCC)(OCC)=O)C=C1)OC | C21H30N5O6P
reactant | trimethylsilyl bromide | 10 equiv. | C[Si](C)(C)Br | C3H9BrSi
solvent | CH2Cl2 | 0.10 M | C(Cl)Cl | CH2Cl2
product | (4-((6-amino-2-(2-methoxyethoxy)-8-oxo-7H-purin-9(8H)-yl)methyl)benzyl)phosphonic acid | NC1=C2NC(N(C2=NC(=N1)OCCOC)CC1=CC=C(CP(O)(O)=O)C=C1)=O | C16H20N5O6P
